US06822100B2
A mixture of the crude cis-2-[5-Cyano-1-(p-toluenesulfonyl)indol-3-yl]cyclopropanecarboxaldehyde, dimethylamine (0.35 ml, 0.7 mmol, 2.0 M/THF), and anhydrous ethanol (10 ml) was heated with stirring until all solids were dissolved. The reaction vessel was removed from the heating source and sodium triacetoxyborohydride (300 mg, 1.41 mmol) was added. After stirring for 1 h, the solvent was evaporated. The residue was taken up in brine (10 ml) and aqueous 1N sodium hydroxide was added until solids disappeared. The aqueous layer was extracted with ethyl acetate ((4×10 ml), dried over anhydrous magnesium sulfate, and concentrated in vacuo to give the crude cis-2-[5-cyano-1-(p-toluenesulfonyl)indol-3-yl]-1-(N,N-dimethylaminomethyl)cyclopropane.

reactant | cis-2-[5-Cyano-1-(p-toluenesulfonyl)indol-3-yl]cyclopropanecarboxaldehyde | C(#N)C=1C=C2C(=CN(C2=CC1)S(=O)(=O)C1=CC=C(C=C1)C)[C@@H]1[C@@H](C1)C=O | C20H16N2O3S
reactant | dimethylamine | 0.7 mmol, 2.0 M, 0.35 ml | CNC | C2H7N
reactant | sodium triacetoxyborohydride | 1.41 mmol, 300 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | cis-2-[5-cyano-1-(p-toluenesulfonyl)indol-3-yl]-1-(N,N-dimethylaminomethyl)cyclopropane | C(#N)C=1C=C2C(=CN(C2=CC1)S(=O)(=O)C1=CC=C(C=C1)C)[C@@H]1[C@@H](C1)CN(C)C | C22H23N3O2S
